US08466289B2
Synthesis of Intermediate 1-Benzyl-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (I-1f)
Palladium acetate (129 mg, 0.001 mol), BINAP (538 mg, 0.001 mol), cesium carbonate (2.8 g, 0.009 mol) were dissolved in toluene (20 mL) and the resulting mixture was sparged for 30 mins with nitrogen. This was followed by addition of trifluoro-methanesulfonic acid 1-benzyl-6-methyl-8-nitro-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-7-yl ester (2.5 g, 0.006 mol) and 4-bromo-2-fluoro-phenylamine (1.15 g, 0.006 mol) in toluene (20 mL) and the reaction flask was again sparged for another 15 minutes. The reaction mixture was heated at 90° C. for 1 hour. The reaction was monitored by TLC (80% ethylacetate in hexane). The reaction mixture was filtered through celite bed and concentrated. Purification by column chromatography on silica gel (40% ethylacetate in hexane) afforded 1.3 g of the product (48% yield).

reactant | BINAP | 0.001 mol, 538 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.009 mol, 2.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluoro-methanesulfonic acid 1-benzyl-6-methyl-8-nitro-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-7-yl ester | 0.006 mol, 2.5 g | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C16H14F3N3O6S
reactant | 4-bromo-2-fluoro-phenylamine | 0.006 mol, 1.15 g | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 0.001 mol, 129 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Benzyl-7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 1.3 g, 48% yield | C(C1=CC=CC=C1)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)Br)F)[N+](=O)[O-] | C21H18BrFN4O3
